US04175135
A solution of 20.0 g (0.067 mol) of 2-(2'-chloro-4'-nitrophenyl)-5,5-dimethyl-1,3-cyclohexanedione in 150 ml of concentrated ammonium hydroxide and 150 ml of ethanol was stirred at room temperature while passing hydrogen sulfide gas through the solution at such a rate that all of the H2S was absorbed. When the solution was saturated with H2S, the temperature was raised to the reflux point and H2S continuously passed slowly through the refluxing solution for 24 hours. The reaction mixture was filtered to remove sulfur, and the filtrate evaporated under reduced pressure. To the residue was added 300 ml of 0.25 N NaOH, and the solution filtered once more. The filtrate was cooled and carefully acidified to pH=-4 with 6 NHCl. A white solid formed which was collected by suction filtration to give 13.3 g (74%) of 2-(2'-Chloro-4'-aminophenyl)-5,5-dimethyl-1, 3-cyclohexanedione, m.p. 218°-219° C.

reactant | 2-(2'-chloro-4'-nitrophenyl)-5,5-dimethyl-1,3-cyclohexanedione | 0.067 mol, 20.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C1C(CC(CC1=O)(C)C)=O | C14H14ClNO4
reactant | hydrogen sulfide | S | H2S
solvent | ammonium hydroxide | 150 ml | [OH-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(2'-Chloro-4'-aminophenyl)-5,5-dimethyl-1, 3-cyclohexanedione | 13.3 g, 74% | ClC1=C(C=CC(=C1)N)C1C(CC(CC1=O)(C)C)=O | C14H16ClNO2
